### PR TITLE
[Merged by Bors] - feat: taking the product of probability measures is a continuous map

### PR DESCRIPTION
**Pull request by sgouezel**
---

- [x] depends on: #27867

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 1]
```diff
@@ -452,6 +452,15 @@ theorem measure_closure_of_null_frontier {μ : Measure α'} {s : Set α'} (h : 
     μ (closure s) = μ s :=
   measure_congr (closure_ae_eq_of_null_frontier h)
 
+theorem null_frontier_inter {μ : Measure α'} {s s' : Set α'}
+    (h : μ (frontier s) = 0) (h' : μ (frontier s') = 0) :
+    μ (frontier (s ∩ s')) = 0 := by
+  apply le_antisymm ?_ bot_le
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean]:
```suggestion
  apply bot_unique
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 2]
```diff
@@ -192,6 +192,10 @@ theorem apply_mono (μ : ProbabilityMeasure Ω) {s₁ s₂ : Set Ω} (h : s₁ 
   rw [← coeFn_comp_toFiniteMeasure_eq_coeFn]
   exact MeasureTheory.FiniteMeasure.apply_mono _ h
 
+theorem apply_union_le (μ : ProbabilityMeasure Ω) {s₁ s₂ : Set Ω} : μ (s₁ ∪ s₂) ≤ μ s₁ + μ s₂ := by
+  rw [← coeFn_comp_toFiniteMeasure_eq_coeFn]
+  exact MeasureTheory.FiniteMeasure.apply_union_le _
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
  exact FiniteMeasure.apply_mono _ h

theorem apply_union_le (μ : ProbabilityMeasure Ω) {s₁ s₂ : Set Ω} : μ (s₁ ∪ s₂) ≤ μ s₁ + μ s₂ := by
  rw [← coeFn_comp_toFiniteMeasure_eq_coeFn]
  exact FiniteMeasure.apply_union_le _
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasureProd.lean [hunk 3]
```diff
@@ -134,6 +137,50 @@ lemma prod_swap : (μ.prod ν).map measurable_swap.aemeasurable = ν.prod μ :=
...
 
+open TopologicalSpace
+
+/-- The map associating to two probability measures their product is a continuous map. -/
+@[fun_prop]
+theorem continuous_prod [TopologicalSpace α] [TopologicalSpace β] [SecondCountableTopology α]
+    [SecondCountableTopology β] [PseudoMetrizableSpace α] [PseudoMetrizableSpace β]
+    [OpensMeasurableSpace α] [OpensMeasurableSpace β] :
+    Continuous (fun (μ : ProbabilityMeasure α × ProbabilityMeasure β) ↦ μ.1.prod μ.2) := by
+  apply continuous_iff_continuousAt.2 (fun μ ↦ ?_)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/FiniteMeasureProd.lean]:
```suggestion
  refine continuous_iff_continuousAt.2 (fun μ ↦ ?_)
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasureProd.lean [hunk 4]
```diff
@@ -134,6 +137,50 @@ lemma prod_swap : (μ.prod ν).map measurable_swap.aemeasurable = ν.prod μ :=
...
+  /- It suffices to check the convergence along elements of a π-system containing arbitrarily
+  small neighborhoods of any point, by `tendsto_probabilityMeasure_of_tendsto_of_mem`.
+  We take as a π-system the sets of the form `a ×ˢ b` where `a` and `b` have null frontier. -/
+  let S : Set (Set (α × β)) := {t | ∃ (a : Set α) (b : Set β),
+    MeasurableSet a ∧ μ.1 (frontier a) = 0 ∧ MeasurableSet b ∧ μ.2 (frontier b) = 0
+    ∧ t = a ×ˢ b}
+  have : IsPiSystem S := by
+    rintro s ⟨a, b, ameas, ha, bmeas, hb, rfl⟩ s' ⟨a', b', a'meas, ha', b'meas, hb', rfl⟩ -
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/FiniteMeasureProd.lean]:
```suggestion
    rintro - ⟨a, b, ameas, ha, bmeas, hb, rfl⟩ - ⟨a', b', a'meas, ha', b'meas, hb', rfl⟩ -
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by sgouezel** [comment]
Thanks for the review and the suggestions!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
